US08114867B2
81.i. N1-(6-methoxy-[1,5]naphthyridin-4-yl)-ethane-1,2-diamine
A mixture of 8-chloro-2-methoxy-1,5-naphthyridine (1.71 g, 8.81 mmol) and ethylenediamine (1.18 mL, 2 eq.) was heated slowly to 80° C. over 1 h and subsequently up to 100° C. for 2 h. After cooling to rt, the yellow solution was taken in DCM and successively washed with NaHCO3. The aq. layer was back extracted with DCM (3 times) and the combined org. layers were concentrated to afford the title intermediate as a pale yellow oil (0.98 g, 51% yield).

reactant | 8-chloro-2-methoxy-1,5-naphthyridine | 8.81 mmol, 1.71 g | ClC=1C=CN=C2C=CC(=NC12)OC | C9H7ClN2O
reactant | ethylenediamine | 1.18 mL, 2 eq. | C(CN)N | C2H8N2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N1-(6-methoxy-[1,5]naphthyridin-4-yl)-ethane-1,2-diamine | 0.98 g, 51% yield | COC=1N=C2C(=CC=NC2=CC1)NCCN | C11H14N4O
